US05883290
Into the hydrolysis reactor 9, was packed 1,080 mL of Amberlist 31 Wet (Japan Organo Co., Ltd.) which is a sulfonated acid type cation exchange resin based on a styrene-vinylbenzene copolymer of divinylbenzene unit content of 4%. To this reactor, were fed fresh BzOAc (88.2 g/h), an aqueous 19.5% acetic acid solution obtained as a side stream from the top portion of the acetic acid-water separation column 12 (56.7 g/h), and a bottom liquid of the alcohol concentration column 11 (142.8 g/h, composed of BzOAc: 94.0% and BzOH: 6.0%), and the reaction was allowed to proceed at 80° C. Thereby, a reaction liquid (composed of BzOH: 24.3%, BzOAc: 46.8%, acetic acid: 16.7%, and water: 12.2%) was obtained at a rate of 287.7 g/h.

reactant | styrene vinylbenzene | C=CC1=CC=CC=C1.C(=C)C1=CC=CC=C1 | 2C8H8
reactant | divinylbenzene | C(=C)C1=C(C=CC=C1)C=C | C10H10
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | acetic acid water | C(C)(=O)O.O
product | BzOAc | C(=O)(C1=CC=CC=C1)OC(=O)C | C9H8O3
